US08026370B2
(2-phenylpyrimidin-5-yl)methanol
2-Phenylpyrimidine-5-carbaldehyde (2.0 g) was dissolved in ethanol (20 mL), sodium tetrahydroborate (411 mg) was added under ice-cooling, and the mixture was stirred at 0° C. for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride solution and then saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (1.75 g) as a white solid.

reactant | 2-Phenylpyrimidine-5-carbaldehyde | 2.0 g | C1(=CC=CC=C1)C1=NC=C(C=N1)C=O | C11H8N2O
reactant | sodium tetrahydroborate | 411 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2-phenylpyrimidin-5-yl)methanol | 1.75 g | C1(=CC=CC=C1)C1=NC=C(C=N1)CO | C11H10N2O
